*SPICE model for AT-32063
*Terminal connections: C1 B1 E1 C2 B2 E2
.SUBCKT AT32063   40  10 20  30  60  50
* "63" PACKAGE MODEL
* Lead inductances
L1     10      12     .70NH
L2     20      22     .70NH
L3     30      32     .70NH
L4     40      42     .70NH
L5     50      52     .70NH
L6     60      62     .70NH
*Parasitic capacitances
C1     12      0      .03PF
C2     22      0      .03PF
C3     32      0      .03PF
C4     42      0      .03PF
C5     52      0      .03PF
C6     62      0      .03PF
* Bond wire / internal lead frame inductances
LB1    12      13     .5NH
LB2    22      23     .5NH
LB3    32      33     .05NH
LB4    42      43     .05NH
LB5    52      53     .5NH
LB6    62      63     .5NH
*Coupling capacitances
C12    12      22     .14PF
C23    22      32     .14PF
C45    42      52     .14PF
C56    52      62     .14PF
* INSERT DIE MODELS
XAT320 43  13   23  AT320
XAT320 33  63   53  AT320
.ENDS

** DIE MODEL (excludes bond wires)
.SUBCKT AT320   75      20      85
CBBP    20      75      .03PF; BASE BOND PAD CAPACITANCE
CEBP    85      75      .03PF; EMITTER BOND PAD CAPACITANCE
QINT    75      20      85      Q320     
.ENDS
*
.MODEL  Q320    NPN (BF=100, BR=2.5, IS=3.1E-16, VA=20, TF=12PS, 
+               CJE=4.6E-13, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=5.7E-2, IKF=2.5E-2, XTF=4, NF=1.03, ISE=9.5E-13,
+               NE=2.5, RB=9.78, RE=0.61, RC=35.97, CJC=1.8E-13, CJS=1.7E-13,
+               XCJC=0.20, PS=0.8, MS=0.5, PC=0.76, MC=0.53)